US06951875B2
A solution of N-[2-(3,4-dihydro-naphthalen-2-yl)-pyridin-4-yl]-oxalamic acid ethyl ester (0.36 g, 1.2 mmol) in THF (20 ml) was slowly added to an ice bath cooled mixture of lithium aluminum hydride (0.10 g , 2.6 mmol) in THF (20 ml). The resulting mixture was refluxed for 30 min, quenched with aqueous saturated Seignette-salt solution and extracted with AcOEt. The organic phase was dried over Na2SO4, concentrated and chromatographed (SiO2 with CH2Cl2/CH3OH/NH4OH=140/10/1) to give [2-(3,4-dihydro-naphthalen-2-yl)-pyridin-4-yl]-methyl-amine as a yellow oil (0.12 g, 42%) which was crystallized as the white fumarate salt. Mp. 106-107° C. (MeOH/Et2O), MS: m/e=236 (M+).

reactant | N-[2-(3,4-dihydro-naphthalen-2-yl)-pyridin-4-yl]-oxalamic acid ethyl ester | 1.2 mmol, 0.36 g | C(C)OC(C(=O)NC1=CC(=NC=C1)C1=CC2=CC=CC=C2CC1)=O | C19H18N2O3
reactant | lithium aluminum hydride | 2.6 mmol, 0.10 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | [2-(3,4-dihydro-naphthalen-2-yl)-pyridin-4-yl]-methyl-amine | 0.12 g, 42% | C1=C(CCC2=CC=CC=C12)C1=NC=CC(=C1)NC | C16H16N2
